US06175042B1
A solution of 25.53 g of tin(II) chloride dihydrate in 40 ml of concentrated hydrochloric acid was added dropwise to a stirred solution of 5.05 g of 2-nitrophenyl trifluoromethyl sulfide, obtained according to Example 1, in 30 ml of ethanol. After the addition had ended, the mixture was heated to 100° C. and stirred at this temperature for 1.5 hours. The mixture was cooled, ethanol was evaporated off under reduced pressure, and the residue was poured into a mixture of 150 g of ice and 150 ml of 40% strength by weight aqueous sodium hydroxide solution. The product was extracted with ether. The combined ether extracts were dried over magnesium sulfate and concentrated under reduced pressure. Vacuum distillation of the residue gave 3.31 g (75.7% of theory) of 2-aminophenyl trifluoromethyl sulfide (boiling point 102-104° C. at 50 mbar, melting point: 30-31° C.).

reactant | tin(II) chloride dihydrate | 25.53 g | O.O.[Sn](Cl)Cl
reactant | 2-nitrophenyl trifluoromethyl sulfide | 5.05 g | FC(F)(F)SC1=C(C=CC=C1)[N+](=O)[O-] | C7H4F3NO2S
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-aminophenyl trifluoromethyl sulfide | 3.31 g, 75.7% | FC(F)(F)SC1=C(C=CC=C1)N | C7H6F3NS
